US07250418B2
Preparation of 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine but substituting benzyl (3R,4S)-3-{[5-(2,6-dimethoxypyridin-3-yl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate provided the title compound as an amber oil. 1H NMR (400 MHz, CDCl3) δ) 7.53, 6.42, 5.29, 4.52, 4.04, 3.98, 3.92, 3.66, 3.51, 3.40, 3.21, 3.12, 2.91, 2.72, 2.48, 1.28, 1.18; IR (liq.) 2972, 2418 (w), 2184 (w), 2036 (w), 1993 (w), 1603, 1581 (s), 1564, 1477 (s), 1423, 1395, 1376 (s), 1313 (s), 1233, 1022 cm−1 HRMS (ESI) calcd for C21H31N5O3+H1 402.2505. found 402.2516.

reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethyl-5-(6-methoxy-2-methylpyridin-3-yl)pyrazin-2-amine | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=C(N=C1CC)C=1C(=NC(=CC1)OC)C)CC | C21H31N5O2
reactant | benzyl (3R,4S)-3-{[5-(2,6-dimethoxypyridin-3-yl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | COC1=NC(=CC=C1C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OCC1=CC=CC=C1)CC)OC | C29H37N5O5
product | 5-(2,6-dimethoxypyridin-3-yl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | COC1=NC(=CC=C1C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC)OC | C21H31N5O3
